US05352801
(Z)-4-Butyryloxy-5-isobutylidene-3-pyrrolin-2-one (IV, R1 =isopropyl, R2 =propyl)
31.8 g of (Z) -5-isobutylidenepyrrolidine-2,4-dione was suspended in 318 ml of dichloromethane and cooled to -5° C. Then first 23.22 g of butyryl chloride was added and then 27.32 g of triethylamine was added. After the addition the mixture was stirred another 10 minutes at 0° C., then diluted with 100 ml of dichloromethane, and washed twice with 100 ml of 5 percent NaHCO3 solution each and twice with 100 ml of 0.4M hydrochloric acid each. The aqueous phases were extracted separately with dichloromethane and the combined organic phases were dried on magnesium sulfate. After the distilling off of the solvent, the crude product (46 g) was recrystallized from hexane. The yield of the title compound was 38.8 g (84 percent of theory). The title compound had a melting point of 111° to 112° C. Other data concerning the title compound was:

reactant | (Z) -5-isobutylidenepyrrolidine-2,4-dione | 31.8 g | C(/C(C)C)=C/1\C(CC(N1)=O)=O | C8H11NO2
reactant | butyryl chloride | 23.22 g | C(CCC)(=O)Cl | C4H7ClO
reactant | triethylamine | 27.32 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 318 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (Z)-4-Butyryloxy-5-isobutylidene-3-pyrrolin-2-one | C(CCC)(=O)OC/1=CC(N\C1=C/C(C)C)=O | C12H17NO3
